US07244730B2
(Step 1) 3,4-Dibromo-6-ethoxy-2-fluorophenol
After dissolving 1,2-dibromo-3-fluoro-4,5-diethoxybenzene (5 g, 14.5 ml) in dichloromethane (70 ml), aluminum chloride (3.9 g, 29.3 mmol) was added while stirring on ice. The mixture was stirred at room temperature for 2 hours 30 minutes, 1 N hydrochloric acid (70 ml) was added and extraction was performed with ethyl acetate (70 ml×2) and then after washing the combined organic layers with brine (50 ml) and drying over anhydrous magnesium sulfate, the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane-ethyl acetate) to obtain the title compound (4.31 g, 94%).

reactant | 1,2-dibromo-3-fluoro-4,5-diethoxybenzene | 14.5 ml, 5 g | BrC1=C(C(=C(C(=C1)OCC)OCC)F)Br | C10H11Br2FO2
reactant | aluminum chloride | 29.3 mmol, 3.9 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | hydrochloric acid | 1 N, 70 ml | Cl | ClH
solvent | dichloromethane | 70 ml | ClCCl | CH2Cl2
product | 3,4-Dibromo-6-ethoxy-2-fluorophenol | 4.31 g, 94% | BrC=1C(=C(C(=CC1Br)OCC)O)F | C8H7Br2FO2
